US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]-2-chlorophenyl]-2-methyl-3-fluorobenzamide
A mixture of 1.0 g of 6,11-dihydro-5H-dibenz-[b,e]azepine, 0.80 g of N,N-diisopropylethylamine and 2.01 g of 4-[(2-methyl-3-fluorobenzoyl)amino]-3-chloro-benzoyl chloride in 100 ml of methylene chloride is stirred at room temperature for 18 hours. The reaction mixture is washed with water, saturated NaHCO3, dried (Na2SO4) and passed through a pad of hydrous magnesium silicate. Hexane is added to the filtrate at the boil to give 1.79 g of the desired product as a crystalline solid, m.p. 254°-256° C.

reactant | 6,11-dihydro-5H-dibenz-[b,e]azepine | 1.0 g | C1=CC=CC=2NCC3=C(CC21)C=CC=C3 | C14H13N
reactant | N,N-diisopropylethylamine | 0.80 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[(2-methyl-3-fluorobenzoyl)amino]-3-chloro-benzoyl chloride | 2.01 g | CC1=C(C(=O)NC2=C(C=C(C(=O)Cl)C=C2)Cl)C=CC=C1F | C15H10Cl2FNO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]-2-chlorophenyl]-2-methyl-3-fluorobenzamide | 1.79 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC(=C(C=C3)NC(C3=C(C(=CC=C3)F)C)=O)Cl | C29H22ClFN2O2
